US05495020
To the thus obtained 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-chloro-5-nitrotoluene (0.13 g) are added anhydrous dimethylformamide (2 ml), potassium fluoride (37 mg) and cyclopropylamine (0.15 ml) and the mixture is stirred at 100° C. for 3 hours. After cooling, the reaction mixture is poured into ice-water, extracted with dichloromethane and the extract is dried. The solvent is distilled off under reduced pressure and purified by silica-gel column-chromatography (eluent; dichloromethane : methanol=10 : 1) to give 3-(4-methyl-1-piperazinyl)-4-fluoro-5-chloro-2-methyl-6 -nitro-N-cyclopropylaniline (0.14 g).

reactant | 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-chloro-5-nitrotoluene | 0.13 g | CN1CCN(CC1)C1=C(C(=C(C(=C1F)Cl)[N+](=O)[O-])F)C | C12H14ClF2N3O2
reactant | potassium fluoride | 37 mg | [F-].[K+]
reactant | cyclopropylamine | 0.15 ml | C1(CC1)N | C3H7N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(4-methyl-1-piperazinyl)-4-fluoro-5-chloro-2-methyl-6 -nitro-N-cyclopropylaniline | 0.14 g | CN1CCN(CC1)C=1C(=C(NC2CC2)C(=C(C1F)Cl)[N+](=O)[O-])C | C15H20ClFN4O2
